US06500853B1
2-[5-bromo-1-(cyclopropylmethyl)-1H-indol-3-yl]acetic acid
To 5-bromoindole-3-acetic acid (890 mg, 3.5 mmol) in 1-methyl-2-pyrrolidinone (12 mL) at 0° C. were added iPr2NEt (21 mmol) and bromomethylcyclopropane (10.5 mmol). The reaction mixture was heated at 50° C. for 19 h before partitioning between diethyl ether and ice water. After adjusting the pH to 3, the aqueous layer was extracted with diethyl ether. The organic layers were combined, washed with NaH2PO4, dried over MgSO4 and evaporated to dryness. Purification on silica gel column (30% EtOAc in hexane) yielded 927 mg (86% yield) of the product.

reactant | 5-bromoindole-3-acetic acid | 3.5 mmol, 890 mg | BrC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8BrNO2
reactant | iPr2NEt | 21 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | bromomethylcyclopropane | 10.5 mmol | BrCC1CC1 | C4H7Br
solvent | 1-methyl-2-pyrrolidinone | 12 mL | CN1C(CCC1)=O | C5H9NO
product | 2-[5-bromo-1-(cyclopropylmethyl)-1H-indol-3-yl]acetic acid | 927 mg, 86% yield | BrC=1C=C2C(=CN(C2=CC1)CC1CC1)CC(=O)O | C14H14BrNO2
